US05688946
A mixture of 1.1 g (2.43 mmol) of 4-benzyl 1-tert-butyl N-[(1-tert-butoxyformamido)thioacetyl]-L-aspartate, 1.95 ml of methyl iodide and 0.92 g of potassium carbonate in 50 ml of acetone is stirred at room temperature overnight. Thereafter, the solvent is distilled off under reduced pressure and the residue is taken up in ether. The organic phase is washed with water, dried over sodium sulphate and evaporated. 4-Benzyl 1-tert-butyl N-[2-(1-tert-butoxyformamido)-1-(methylthio)ethylidene]-L-aspartate is obtained as a mixture of the E- and Z-isomers; MS: 467 (M+H)+.

reactant | 4-benzyl 1-tert-butyl N-[(1-tert-butoxyformamido)thioacetyl]-L-aspartate | 2.43 mmol, 1.1 g | C(C)(C)(C)OC(=O)NCC(=S)N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H32N2O6S
reactant | methyl iodide | 1.95 ml | CI | CH3I
reactant | potassium carbonate | 0.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-Benzyl 1-tert-butyl N-[2-(1-tert-butoxyformamido)-1-(methylthio)ethylidene]-L-aspartate | C(C)(C)(C)OC(=O)NCC(SC)=N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H34N2O6S
